US05914352
(Perfluorooctyl Bromide/Perfluorodecyl Bromide)
The protocol of Example 1 was repeated to form four additional emulsions, except that in successive emulsions, the fluorocarbon was perfluorooctyl bromide containing 1%, 2%, 5%, and 10% perfluorodecyl bromide (w/w), respectively.

reactant | fluorocarbon | F[C] | CF
reactant | perfluorooctyl bromide | FC(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)Br | C8BrF17
reactant | perfluorodecyl bromide | FC(C(C(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)Br | C10BrF21
product | Perfluorooctyl Bromide Perfluorodecyl Bromide | FC(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)Br.FC(C(C(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)Br | InChI=1S/C10BrF21.C8BrF17/c11-9(28,29)7(24,25)5(20,21)3(16,17)1(12,13)2(14,15)4(18,19)6(22,23)8(26,27)10(30,31)32;9-7(22,23)5(18,19)3(14,15)1(10,11)2(12,13)4(16,17)6(20,21)8(24,25)26
